US07517878B2
Step 2: Preparation of 4-{[3-tert-butyl-1-(2,5-dimethylphenyl)-1H-Pyrazol-5-yl]amino}-2-(methylthio)pyrimidine-5-carboxylic acid
To a solution of ethyl 4-{[3-tert-butyl-1-(2,5-dimethylphenyl)-1H-pyrazol-5-yl]amino}-2-(methylthio)pyrimidine-5-carboxylate (71 mg, 0.16 mmol) in a mixture of ethanol (0.5 mL) and THF (0.5 mL) was added lithium hydroxide monohydrate (68 mg, 1.6 mmol) in water (1 mL), and the mixture was then heated to 40° C. for 1 h. The reaction mixture was cooled to rt, the pH of the solution was adjusted to 5 by addition of 0.5 N hydrochloric acid, and the mixture was concentrated to dryness. The crude mixture was redissolved in methanol and subjected to HPLC purification using a gradient elution from 30% to 90% acetonitrile in water to afford 66 mg (99%) of the desired product. 1H NMR (300 MHz, CD2Cl2) δ 10.50 (s, 1H), 8.65 (s, 1H), 7.17 (dd, 2H), 7.12 (s, 1H), 6.83 (s, 1H), 2.68 (s, 3H), 2.27 (s, 3H), 1.97 (s, 3H), 1.35 (s, 9H); ES-MS m/z 412.2 (MH+); HPLC RT (min) 3.94.

reactant | ethyl 4-{[3-tert-butyl-1-(2,5-dimethylphenyl)-1H-pyrazol-5-yl]amino}-2-(methylthio)pyrimidine-5-carboxylate | 0.16 mmol, 71 mg | C(C)(C)(C)C1=NN(C(=C1)NC1=NC(=NC=C1C(=O)OCC)SC)C1=C(C=CC(=C1)C)C | C23H29N5O2S
reactant | lithium hydroxide monohydrate | 1.6 mmol, 68 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 4-{[3-tert-butyl-1-(2,5-dimethylphenyl)-1H-Pyrazol-5-yl]amino}-2-(methylthio)pyrimidine-5-carboxylic acid | 66 mg, 99% | C(C)(C)(C)C1=NN(C(=C1)NC1=NC(=NC=C1C(=O)O)SC)C1=C(C=CC(=C1)C)C | C21H25N5O2S
